US06579875B1
a) 4-Methyltetrahydropyran-4-carboxylic acid
Butyllithium (21.1 ml, 33.8 mmol, 1.6 M in hexanes) was added dropwise over 10 minutes to a stirred solution of diisopropylamine (4.7 ml, 33.8 mmol) in anhydrous tetrahydrofuran (40 ml) under an atmosphere of nitrogen at <10° C. Upon addition, tetrahydropyran-4-carboxylic acid (J. Am. Chem. Soc., 1993, 115, 8407) was added in anhydrous tetrahydrofuran (20 ml) under nitrogen at <5° C. The mixture was stirred at room temperature for one hour after which methyl iodide (2.4 ml, 38.4 mmol) was added dropwise at <5° C. The resultant solution was stirred at <50° C. for 30 minutes, allowed to warm to room temperature and stirred for a further 3.5 days. The solvent was removed by evaporation and the residue dissolved in dichloromethane (100 ml) and 2N hydrochloric acid (100 ml) added. The aqueous layer was extracted with dichloromethane (3×100 ml) and the combined organic layers were washed with water (100 ml), brine (100 ml), dried (MgSO4), filtered and evaporated to yield the title product (1.4 g) which was used in the next step without purification. Data for the title compound: 1H NMR (250 MHz, CDCl3) δ1.00 (3H, s), 1.47-1.58 (2H, m), 2.06-2.11 (2H, m), 3.49-3.60 (2H, m), 3.78-3.86 (2H, m).

reactant | Butyllithium | 33.8 mmol, 1.6 M, 21.1 ml | C(CCC)[Li]
reactant | diisopropylamine | 33.8 mmol, 4.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | tetrahydropyran-4-carboxylic acid | O1CCC(CC1)C(=O)O | C6H10O3
reactant | methyl iodide | 38.4 mmol, 2.4 ml | CI | CH3I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Methyltetrahydropyran-4-carboxylic acid | 1.4 g | CC1(CCOCC1)C(=O)O | C7H12O3
